US08426447B2
To a mixture of N-tert-butyl-2′-(pyrimidin-5-yl)-7′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine (0.475 g, 0.899 mmol), NaOH solid (0.062 mL, 3.33 mmol), and hydroxyammonium chloride (0.120 mL, 2.88 mmol) was added Ethanol (8 mL). The mixture was stirred at RT. After 48 hrs, the mixture was concentrated in vacuo and the residue partioned between DCM and water. The aqueous layer was acidified to ca. pH=7 and extracted with CH2Cl2. The combined organic fractions were adsorbed onto silica gel and purified by silica gel chromatography using 40-80% Hexanes:EtOAc to give 2-(tert-butylamino)-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2′-ol as an off-white solid. MS: MH+=419.2.

reactant | N-tert-butyl-2′-(pyrimidin-5-yl)-7′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine | 0.899 mmol, 0.475 g | C(C)(C)(C)NC=1SCC2(C3=CC(=CC=C3OC=3C=CC(=CC23)C=2C=NC=NC2)B2OC(C(O2)(C)C)(C)C)N1 | C29H33BN4O3S
reactant | NaOH | 3.33 mmol, 0.062 mL | [OH-].[Na+]
reactant | hydroxyammonium chloride | 2.88 mmol, 0.120 mL | [Cl-].O[NH3+]
reactant | Ethanol | 8 mL | C(C)O | C2H6O
product | 2-(tert-butylamino)-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2′-ol | C(C)(C)(C)NC=1SCC2(C3=CC(=CC=C3OC=3C=CC(=CC23)O)C=2C=NC=NC2)N1 | C23H22N4O2S
